US08207216B2
3-[6-(4-Chlorophenyl)-5-fluoro-1-methyl-1H-indol-3-yl]-4-(7-methoxy-benzofuran-3-yl)-pyrrole-2,5-dione (18)
3-(5-Fluoro-6-iodo-1-methyl-1H-indol-3-yl )-4-(7-methoxy benzofuran-3-yl)-pyrrole-2,5-dione (0.020 g, 0.039 mmol), Pd(PPh3)4 (4.5 mg, 0.004 mmol), and 4-chloro-phenylboronic acid (15.1 mg, 0.097 mmol) were dissolved in dimethoxy ethane (DME) (4 mL), and the mixture was degassed for 1 min and stirred for 10 min at room temperature. A solution of K2CO3 (2 M, 0.049 mL, 0.098 mmol) was added. The mixture was degassed again for 1 min, and stirred at 85° C. overnight. The resulting mixture was cooled to ambient temperature and poured into a mixture of 0.1 N HCl/EtOAc (15 mL/15 mL). After partition, the organic layer was washed with water, filtered, and concentrated. The residue was purified by preparative TLC using (ethyl acetate-hexane, 1:1) to afford the product as an orange solid (10 mg, 51%). The sample was purified by HPLC to give 3 mg of pure final compound.

reactant | 3-(5-Fluoro-6-iodo-1-methyl-1H-indol-3-yl )-4-(7-methoxy benzofuran-3-yl)-pyrrole-2,5-dione | 0.039 mmol, 0.020 g | FC=1C=C2C(=CN(C2=CC1I)C)C=1C(NC(C1C1=COC2=C1C=CC=C2OC)=O)=O | C22H14FIN2O4
reactant | 4-chloro-phenylboronic acid | 0.097 mmol, 15.1 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | K2CO3 | 0.098 mmol, 2 M, 0.049 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethoxy ethane | 4 mL | C(OC)COC | C4H10O2
catalyst | Pd(PPh3)4 | 0.004 mmol, 4.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-[6-(4-Chlorophenyl)-5-fluoro-1-methyl-1H-indol-3-yl]-4-(7-methoxy-benzofuran-3-yl)-pyrrole-2,5-dione | 10 mg, 51% | ClC1=CC=C(C=C1)C1=C(C=C2C(=CN(C2=C1)C)C=1C(NC(C1C1=COC2=C1C=CC=C2OC)=O)=O)F | C28H18ClFN2O4
